US07855202B2
3″-Fluoro-3,2′:3′,4″-terpyridine-5′,6′-diamine
A suspension of 3″-fluoro-5′-nitro-3,2′:3′,4″-terpyridin-6′-amine (2.25 g, 7.23 mmol) and 10% palladium on carbon (0.4 g) in a mixture of THF/ethanol 40:60 (100 mL) was stirred under hydrogen atmosphere. After 3 h, the mixture was filtered through Celite® and the filter cake was washed with ethanol. The combined filtrate and washings were evaporated to give the title compound as a solid (2.01 g, 99%).

reactant | 3″-fluoro-5′-nitro-3,2′:3′,4″-terpyridin-6′-amine | 7.23 mmol, 2.25 g | FC=1C=NC=CC1C=1C(=NC(=C(C1)[N+](=O)[O-])N)C=1C=NC=CC1 | C15H10FN5O2
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
solvent | THF ethanol | 100 mL | C1CCOC1.C(C)O
product | 3″-Fluoro-3,2′:3′,4″-terpyridine-5′,6′-diamine | 2.01 g, 99% | FC=1C=NC=CC1C=1C(=NC(=C(C1)N)N)C=1C=NC=CC1 | C15H12FN5
